US09023865B2
To the solution of crude (R,E)-1-(3-(3-methoxyprop-1-en-1-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (142 mg, 0.239 mmol) in DCM (0.8 mL) TFA (0.3 mL) and triethylsilane (0.1 mL) were added. The mixture was stirred at room temperature for 30 min and additional TFA (0.5 mL) and triethylsilane (0.3 mL) were added. The mixture was stirred at room temperature for 30 min, evaporated in vacuo and purified by MS-directed reverse phase preparative-HPLC (C-18 stationary phase, eluting with a H2O/MeCN gradient with 0.1% TFA), to afford (R)-1-(3-(3-methoxypropyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (21.7 mg, 0.046 mmol, 19%). MS ESI calc'd. for C19H24N5O2 [M+H]+ 354, found 354. 1H NMR (600 MHz, DMSO-d6) δ 12.92 (s, 1H), 9.38 (s, 1H), 8.80 (s, 1H), 7.88 (s, 1H), 7.46 (s, 1H), 7.38-7.15 (m, 5H), 4.85 (m, 1H), 3.33 (t, J=6.3 Hz, 2H), 3.19 (s, 3H), 2.91 (t, J=7.6 Hz, 2H), 1.99-1.85 (m, 2H), 1.39 (d, J=6.9 Hz, 3H),

reactant | (R,E)-1-(3-(3-methoxyprop-1-en-1-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.239 mmol, 142 mg | COC/C=C/C1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H35N5O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
solvent | triethylsilane | 0.1 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | triethylsilane | 0.3 mL | C(C)[SiH](CC)CC | C6H16Si
product | (R)-1-(3-(3-methoxypropyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.046 mmol, 21.7 mg, 19% | COCCCC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C19H23N5O2
